Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:7].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8]/[O:9][C:10]([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12],-2.65064165621
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[O:7]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6].[O:7],7.88986853702
[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-7.099753999999999
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([O:12])([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([O:12])([H:13])[H:14],-2.4804328209
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:4][C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:3],4.22758577229
[C:1]#[C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1][C:2][O:3].[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],1.67680937707
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])[O:8][H:9]>>[O:1]=[C:2]1[C:3][C:4]([H:5])[C@:6]1([H:7])[O:8][H:9],0.510045677929
[C:1]#[C:2][C:3](=[C:4]=[O:5])[O:7][H:8].[H:6]>>[C:1]#[C:2][C:3]([C:4][O:5][H:6])[O:7][H:8],-1.47719505181
[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1],4.156455599669998
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.85671298384
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3](=[C:4][H:5])[C:12]([H:13])([H:14])[H:15],1.91399314717
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3],5.040125462280001
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],2.12802368848
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])=[C:5][H:6],4.56939804144
[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-1.3467681346200002
[H:4].[O:1]1[C:2]([C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11])[C:3]1>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-3.63205104119
[O:1]=[C:2]1[C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],1.0521886481
[H:1][C:5](=[C:4]([O:3]/[C:2]=[C:11](/[C:7]([H:8])([H:9])[H:10])[H:12])[H:13])[H:6]>>[H:1][C:2]1[O:3][C:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],0.30629722002
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8].[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([O:7][H:8])[O:9][H:10],-4.846585254130001
[H:1][C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:1],5.35690144729
[C:7]([H:8])[O:9][H:10].[H:1][C:2]#[C:3][O:4][C:5][H:6]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-5.85546873989
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])[H:11],4.67117871509
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([O:11][H:12])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])[H:15],-1.4930653754799998
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9],1.66813330379
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.87163828165
[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.2255346587700005
[C:1]=[C:2]([H:3])[C:5]([O:4])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C@@:2]1([H:3])[O:4][C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.0677915165707
[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3][H:4]>>[O:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-7.076635520289999
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8].[C:9]([H:10])[H:11],7.3631822859000025
